US04301235
Synthesis of 1-(2,4,6-Trichlorophenyl)-4-(3-methyl-4-nitro-1-pyrazolyl)-3-(3-octadecylureido)-2-pyrazolin-5-one [Coupler (5)]:
13 g of 4-bromo-1-(2,4,6-trichlorophenyl)-3-(3-octadecylureido)-2-pyrazolin-5-one and 10 g of 3-methyl-4-nitropyrazole were mixed at 90° C. for 2 hours. To the reaction mixture, 200 ml of ethyl acetate was added and the mixture was washed several times with water. The ethyl acetate layer was dried with anhydrous sodium sulfate and concentrated. The residual oil was dissolved in 50 ml of chloroform and purified with column chromatography using 500 g of silica gel (art 7734 manufactured by MERCK & Co.) wetted with chloroform as a bulking agent. Upon elution with a solvent mixture of chloroform and ethyl acetate (10:1), 10.9 g of an oily comprising the desired coupler was obtained.

reactant | 4-bromo-1-(2,4,6-trichlorophenyl)-3-(3-octadecylureido)-2-pyrazolin-5-one | 13 g | BrC1C(=NN(C1=O)C1=C(C=C(C=C1Cl)Cl)Cl)NC(=O)NCCCCCCCCCCCCCCCCCC | C28H42BrCl3N4O2
reactant | 3-methyl-4-nitropyrazole | 10 g | CC1=NNC=C1[N+](=O)[O-] | C4H5N3O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,4,6-Trichlorophenyl)-4-(3-methyl-4-nitro-1-pyrazolyl)-3-(3-octadecylureido)-2-pyrazolin-5-one | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)N1N=C(C(=C1)[N+](=O)[O-])C)NC(=O)NCCCCCCCCCCCCCCCCCC | C32H46Cl3N7O4
